************************************** 
* SPICE STIMULI FILE 
* generated from 
************************************** 

Vvss vss 0 PWL 0n 0 
Ven_n en_n 0 PWL 0n VDD 100n VDD 101n 0 
Vminus minus 0 PWL 0n 0.6 1001n 0.6 1002n 0.601 2000n 0.601 2001n 0.6 3001n 
+0.6 3002n 0.599 
Vstart start 0 PWL 0n 0 1000n 0 1001n VDD 2000n VDD 2001n 0 3000n 
+0 3001n VDD 
Vplus plus 0 PWL 0n 0.6 
Vvdd vdd 0 PWL 0n VDD 

